US03997708
acridine;
4,5-phenanthroline, 2-methylpyridine; 3-methylpyridine; 4-methylpyridine;

reactant | 4,5-phenanthroline | C1=CC=NC2=NC=C3C=CC=CC3=C12 | C12H8N2
reactant | 2-methylpyridine | CC1=NC=CC=C1 | C6H7N
reactant | 3-methylpyridine | CC=1C=NC=CC1 | C6H7N
reactant | 4-methylpyridine | CC1=CC=NC=C1 | C6H7N
product | acridine | C1=CC=CC2=NC3=CC=CC=C3C=C12 | C13H9N
